US07151105B2
To 4-bromo-2-ethyl-benzaldehyde (3.0 g, 13.4 mmol) and cyclopropyl methylamine (1.0 g, 14.1 mmol) in dichloromethane (150 mL) was added magnesium sulfate (anhydrous, 200 mg) then sodium cyanoborohydride (2.2 g, 35 mmol). The mixture was stirred at room temperature 16 h. The mixture was diluted in water and partitioned. The organic layer was washed with saturated sodium chloride, dried (MgSO4), filtered, and concentrated in vacuo to a crude colorless oil (3.44 g). The residue was redissolved in dichloromethane (100 mL) and triethylamine (3.6 mL, 26 mmol) then di-tert-butyl dicarbonate (3.5 g, 16.25 mmol) was added. The solution was stirred at room temperature for 2 h, then was diluted in water and extracted with ethyl acetate. The organic layer was washed with saturated sodium bicarbonate, then saturated sodium chloride, dried (Na2SO4), filtered, and concentrated in vacuo to give (4-bromo-2-ethyl-benzyl)-cyclopropylmethyl-carbamic acid tert-butyl ester (3.6 g) as a crude oil.

reactant | 4-bromo-2-ethyl-benzaldehyde | 13.4 mmol, 3.0 g | BrC1=CC(=C(C=O)C=C1)CC | C9H9BrO
reactant | cyclopropyl methylamine | 14.1 mmol, 1.0 g | C1(CC1)NC | C4H9N
reactant | magnesium sulfate | 200 mg | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium cyanoborohydride | 35 mmol, 2.2 g | C(#N)[BH3-].[Na+]
reactant | triethylamine | 26 mmol, 3.6 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 16.25 mmol, 3.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (4-bromo-2-ethyl-benzyl)-cyclopropylmethyl-carbamic acid tert-butyl ester | 3.6 g | C(C)(C)(C)OC(N(CC1CC1)CC1=C(C=C(C=C1)Br)CC)=O | C18H26BrNO2
